US08871754B2
To a solution of 2-chloro-N-(4-fluoro-2-hydroxyphenyl)acetamide (5.5 g, 27 mmol) in acetonitrile (40 mL) was added DIPEA (7 g, 54 mmol) and the reaction solution was stirred at 80° C. for 2 h. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane (50 mL) and water (50 mL). The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 3.5 g (78%) of 7-fluoro-2H-benzo[b][1,4]oxazin-3(4H)-one as a brown solid. 1H NMR (400 MHz, CDCl3) δ 8.35 (br. s, 1H) 6.67-6.77 (m, 3H) 4.62 (s, 2H).

reactant | 2-chloro-N-(4-fluoro-2-hydroxyphenyl)acetamide | 27 mmol, 5.5 g | ClCC(=O)NC1=C(C=C(C=C1)F)O | C8H7ClFNO2
reactant | DIPEA | 54 mmol, 7 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 7-fluoro-2H-benzo[b][1,4]oxazin-3(4H)-one | 3.5 g, 78% | FC=1C=CC2=C(OCC(N2)=O)C1 | C8H6FNO2
